US04841067
To a solution of 154 mg of N-[(+)-2-(1-naphthylmethyl)-3-(phenethylcarbamoyl)propionyl]-L-histidine hydrazide in 4 ml of N,N-dimethylformamide were added successively dropwise 0.19 ml of a dry 5.1N-hydrogen chloride in N,N-dimethylformamide solution and 0.05 ml of isoamyl nitrite at -20° C., and the mixture was stirred. After disapperance of hydrazide compound, the reaction mixture was cooled to -30° C., and neutralized by adding 0.14 ml of triethylamine to prepare a solution of N-[(+)-2-(1-naphthylmethyl)-3-(phenethylcarbamoyl)propionyl]-L-histidine azide. The azide solution prepared was added dropwise to a solution of 64 mg of methyl (2RS, 3S)-3-amino-2-hydroxy-5-methylhexanoate hydrochloride and 0.09 ml of triethylamine in 2 ml of N,N-dimethylformamide under ice-cooling, and the mixture was stirred for 16 hours under ice-cooling. A 5% aqueous sodium bicarbonate solution was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with a saturated sodium chloride aqueous solution, dried over anhydrous magnesium sulfate, and evaporated under reduced pressure. The residue was purified by silica gel flash column chromatography (eluent: chloroform/methanol=10/1 by volume) to obtain 120 mg of methyl (2RS, 3S)-3-{N-[(+)-2-(1-naphthylmethyl)-3-(phenethylcarbamoyl)propionyl]-L-histidyl}amino-2-hydroxy-5-methylhexanoate as a white powder.

reactant | N-[(+)-2-(1-naphthylmethyl)-3-(phenethylcarbamoyl)propionyl]-L-histidine hydrazide | 154 mg | C1(=CC=CC2=CC=CC=C12)CC(C(=O)N(N)C([C@@H](N)CC1=CNC=N1)=O)CC(NCCC1=CC=CC=C1)=O | C29H32N6O3
reactant | hydrogen chloride | Cl | ClH
reactant | isoamyl nitrite | 0.05 ml | N(=O)OCCC(C)C | C5H11NO2
reactant | N-[(+)-2-(1-naphthylmethyl)-3-(phenethylcarbamoyl)propionyl]-L-histidine azide | C1(=CC=CC2=CC=CC=C12)CC(C(=O)N[C@@H](CC1=CNC=N1)C(=O)N=[N+]=[N-])CC(NCCC1=CC=CC=C1)=O | C29H29N7O3
reactant | azide | [N-]=[N+]=[N-]
reactant | methyl (2RS, 3S)-3-amino-2-hydroxy-5-methylhexanoate hydrochloride | 64 mg | Cl.N[C@H](C(C(=O)OC)O)CC(C)C
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | N,N-dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
solvent | triethylamine | 0.09 ml | C(C)N(CC)CC | C6H15N
solvent | triethylamine | 0.14 ml | C(C)N(CC)CC | C6H15N
product | methyl (2RS, 3S)-3-{N-[(+)-2-(1-naphthylmethyl)-3-(phenethylcarbamoyl)propionyl]-L-histidyl}amino-2-hydroxy-5-methylhexanoate | 120 mg | C1(=CC=CC2=CC=CC=C12)CC(C(=O)N[C@@H](CC1=CNC=N1)C(=O)N[C@H](C(C(=O)OC)O)CC(C)C)CC(NCCC1=CC=CC=C1)=O | C37H45N5O6
